US06147088
Step C: (S)-2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester
To a slurry of lithium aluminum hydride (580 mg in 65 mL dry diethyl ether) at 0° C. was added dropwise a solution of (S)-2-(methoxycarbonylmethyl)piperidine-1-carboxylic acid tert-butyl ester (5.47 g in 40 mL dry diethyl ether) over a period of 30 minutes. The reaction was allowed to continue at 0° C. for an additional hour, at which time it was quenched by the careful addition of 0.58 mL water followed by 0.58 mL 2N sodium hydroxide and 1.8 mL water. The resulting suspension was stirred vigorously for 30 minutes then filtered through diatomaceous earth. The filtrate was concentrated in vacuo and the residue purified by flash chromatography on silica gel (hexane:ethyl acetate, 6:4) to give the title compound (4.61 g).

reactant | lithium aluminum hydride | 65 mL, 580 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-2-(methoxycarbonylmethyl)piperidine-1-carboxylic acid tert-butyl ester | 40 mL, 5.47 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CC(=O)OC | C13H23NO4
product | (S)-2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester | 4.61 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CCO | C12H23NO3
